US07329656B2
6-(Pyridin-2-ylsulfanyl)-pyridine-3-carbaldehyde:
To a solution of 2-mercaptopyridine (6.39 g, 57.4 mmol) in DMF (100 mL) was added NaH (60% dispersion in oil, 2.29 g, 57.2 mmol) in portions and the mixture was stirred for 15 min. 6-Bromo-3-pyridine carboxaldehyde (9.28 g, 49.9 mmol) was added and the resultant mixture was stirred for 1 h. Water was added followed by the addition of EtOAc. The phases were separated and the aqueous layer was extracted with EtOAc (2×). The organic extracts were combined, dried over Na2SO4, filtered and concentrated in vacuo to give a crude product which was purified by flash column chromatography (eluents: 20% EtOAc in hexanes and 30% EtOAc in hexanes). Evaporation of the appropriate fractions gave a white solid, which was further purified by recrystallization from diethyl ether to give the product as a white solid (9.66 g, 90% yield). 1H NMR (CDCl3) δ 10.00 (s, 1H), 8.89-8.84 (m, 1H), 8.67-8.64 (m, 1H), 8.01 (dd, J=2.2, 8.9 Hz, 1H), 7.76 (dt, J=2.2, 8.3 Hz, 1H), 7.67-7.63 (m, 1H), 7.44 (d, J=8.3 Hz, 1H), 7.35-7.29 (m, 1H).

reactant | 2-mercaptopyridine | 57.4 mmol, 6.39 g | SC1=NC=CC=C1 | C5H5NS
reactant | NaH | 57.2 mmol, 2.29 g | [H-].[Na+]
reactant | 6-Bromo-3-pyridine carboxaldehyde | 49.9 mmol, 9.28 g | BrC1=CC=C(C=N1)C=O | C6H4BrNO
reactant | Water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(Pyridin-2-ylsulfanyl)-pyridine-3-carbaldehyde | 9.66 g, 90% yield | N1=C(C=CC=C1)SC1=CC=C(C=N1)C=O | C11H8N2OS
